US07253286B2
N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-(2-pyridyl)urea
Phenyl N-(4-(6-cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)carbamate (104 mg, 0.228 mmol) was dissolved in dimethylsulfoxide (1 ml), and then 2-aminopyridine (43 mg, 0.457 mmol) was added and the mixture was heated at 85° C. for 3 hours while stirring. After cooling, ethyl acetate and water were added for distribution, and the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtering off the drying agent and concentrating under reduced pressure, ethyl acetate-hexane was added to the residue and the precipitated crystals were filtered out and dried under reduced pressure to obtain the title compound (86 mg, 0.189 mmol, 82.7%) as white crystals.

reactant | Phenyl N-(4-(6-cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)carbamate | 0.228 mmol, 104 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C26H21N3O5
reactant | 2-aminopyridine | 0.457 mmol, 43 mg | NC1=NC=CC=C1 | C5H6N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
product | N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-(2-pyridyl)urea | 0.189 mmol, 86 mg, 82.7% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC=C(C=C1)NC(=O)NC1=NC=CC=C1 | C25H21N5O4
